* C:\Users\Vilho\Desktop\Alykkaat-Jarjestelmat-Saaasema\Circuits\Analog.asc
V1 N001 0 5
V2 N008 0 SINE(2.25 2.25 10)
R1 N005 0 15k
R2 N005 N001 47k
R3 N007 N006 10k
R4 0 N007 10k
R5 N003 N002 10k
R6 N004 N003 10k
XU1 N005 N002 N001 0 N002 LT1498
XU2 N008 N006 N001 0 N006 LT1498
XU3 N007 N003 N001 0 N004 LT1498
.tran 1
.lib LTC.lib
.backanno
.end
